Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unresponsiveness

 
Major Surgical or Invasive Procedure:
Intubation with mechanical ventillation
 
History of Present Illness:
Mr. ___ is a ___ with intractable paranoid schizophrenia, 
hypertension, diabetes mellitus, and cerebrovascular accident 
without residual deficits who was found to be unresponsive in 
bed at his group home. He has a longstanding history of paranoid 
schizophrenia refractory to multiple antipsychotic medications, 
with current regimen including PO clozapine and IM risperidone. 
He was reported to be denying his medications in the ___ weeks 
prior to admission, believing himself to be entirely well and 
his medications to be toxic. 

On the day prior to admission, he was reportedly in his usual 
state of health and took his medications for the day. After 
smoking a cigarette, he returned to his room to lie down in bed. 
Some time later, he was found unresponsive, including to tactile 
stimuli, by his nursing team, who noted him to be flaccid and 
drooling, with gurgling and frothing at his mouth, but no 
urinary or fecal incontinence. Vital signs at that time included 
systolic blood pressure in the ___ and heart rate in the 130s in 
association with fingerstick blood glucose of 153.  

At ___, labs were notable for sodium of 
127, CK of 1593, and negative toxicology screen. EKG was within 
normal limits with nonprolonged QTc. Noncontrast head CT head 
was negative, as was CTA chest. On transfer to ___ ED, CTA 
head and neck were negative. However, he required intubation for 
airway protection protection prior to admission to the MICU, 
where he was extubated soon after arrival and alert and oriented 
x3, calm without complaint.

 
Past Medical History:
Paranoid schizophrenia 
Cerebrovascular accident previously with right-sided paralysis, 
dysarthria, dysphagia, and gait abnormality, all resolved
Diabetes mellitus
Hypertension
Hyperlipidemia
Insomnia
Anxiety

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
On admission:
Vitals- Afebrile, 110, 134/68, 100% 50%FiO2  
___-  Intubated, on fentanyl, arousable to vouce
HEENT-  PERRLA, anicteric, no facial assymetry
Neck-  non elevated JVD
CV-  regular, tachycardic, no murmurs
Lungs- Clear on left, diminished breath sounds on right listened 
anteriorlly
Abdomen-  soft, NT, ND, normal BS
GU-  Foley with clear, blood tinged urine
Ext-  no edema
Neuro-  moves all extremeties, no focal deficits, withdraws to 
pain, corneal reflex intact, negative babinski

At discharge:
Vitals- 98.4, 105-106/60-61, 86-88, 18, 97%RA
___- calm, interactive and responsive to questions, no 
apparent distress
HEENT- sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not visualized
Lungs- CTAB no wheezes, rales, rhonchi
CV- RRR, normal S1 and S2
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding  
Ext- warm, well perfused, no clubbing, cyanosis or edema
Skin- clear

 
Pertinent Results:
On admission:
___ 07:00PM BLOOD WBC-8.1 RBC-4.54* Hgb-12.3* Hct-40.0 
MCV-88 MCH-27.1 MCHC-30.8* RDW-14.5 Plt ___
___ 07:00PM BLOOD ___ PTT-29.4 ___
___ 07:00PM BLOOD Glucose-120* UreaN-15 Creat-0.7 Na-130* 
K-4.2 Cl-100 HCO3-20* AnGap-14
___ 07:00PM BLOOD CK(CPK)-1328*
___ 07:00PM BLOOD CK-MB-8 cTropnT-<0.01
___ 11:13PM BLOOD CK-MB-9 cTropnT-<0.01
___ 11:13PM BLOOD Calcium-8.3* Phos-3.3 Mg-1.5*
___ 11:28PM BLOOD ___ pO2-55* pCO2-47* pH-7.30* 
calTCO2-24 Base XS--3
___ 07:24PM BLOOD Lactate-1.8

___ 07:00PM URINE Color-Straw Appear-Clear Sp ___
___ 07:00PM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:00PM URINE RBC-14* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-0
___ 07:00PM URINE bnzodzp-POS barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

In the interim:
___ 03:56PM URINE Color-Straw Appear-Clear Sp ___
___ 03:56PM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-TR Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 03:56PM URINE RBC-62* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 03:56PM URINE Hours-RANDOM UreaN-188 Creat-32 Na-94 
K-12 Cl-89
___ 03:56PM URINE Osmolal-376

___ 01:23AM URINE Color-Straw Appear-Clear Sp ___
___ 01:23AM URINE Blood-SM  Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 01:23AM URINE RBC-6* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
___ 01:23AM URINE Hours-RANDOM Creat-32 Na-119 K-16 Cl-134
___ 01:23AM URINE Osmolal-433

At discharge:
___ 05:25AM BLOOD WBC-6.6 RBC-4.43* Hgb-11.9* Hct-37.6* 
MCV-85 MCH-26.8* MCHC-31.6 RDW-14.3 Plt ___
___ 05:25AM BLOOD Glucose-130* UreaN-12 Creat-0.5 Na-133 
K-4.0 Cl-98 HCO3-25 AnGap-14
___ 05:25AM BLOOD Calcium-9.2 Phos-2.5* Mg-1.6

Microbiology:
Blood cultures x2 (___): No growth to date
Urine culture (___): No growth
Imaging:
CTA head/neck with/without contrast (___):
1. No acute intracranial process. 
2. Mild calcification at the proximal internal carotid arteries 
bilaterally but no evidence of flow limiting stenosis or other 
abnormality on CTA head or neck. 
3. Prominent thyroid isthmus where nodule is not excluded. 
Recommend 
ultrasound for further evaluation. 

EEG (___):
This is an abnormal EEG due to the presence of a slower than
average background with bursts of generalized slowing consistent 
with a mild encephalopathy of toxic, metabolic, or anoxic 
etiology. With stimulation, a faster background is produced. No 
asymmetries of voltage or frequency are seen, and no 
epileptiform activity was captured at the time of this 
recording.

ECG (___):
Sinus rhythm at the upper limits of normal rate. Non-diagnostic 
Q waves in
leads III and aVF but with T wave abnormalities. Consider prior 
inferior wall myocardial infarction. RSR' pattern in lead V1. 
Borderline low precordial voltage. Possible early repolarization 
pattern in the precordial leads. No previous tracing available 
for comparison.
 IntervalsAxes
___
___

ECG (___):
Baseline artifact. Sinus tachycardia. Since the previous tracing 
the rate is slightly faster. Artifact is more prominent. 
Clinical correlation is
suggested.
 IntervalsAxes
___
___

 
Brief Hospital Course:
Mr. ___ is a ___ with intractable paranoid schizophrenia, 
hypertension, diabetes mellitus, and cerebrovascular accident 
without residual deficits who was found to be unresponsive in 
bed at his group home.

Active Issues:
# Loss of consciousness: The cause of his loss of consciousness 
was not entirely clear, but was felt in discussion with the 
psychiatry service to be most likely oversedation from multiple 
antipsychotic medications. IM risperidone monotherapy, with 
discontinuation of PO risperidone and PO clozapine, was advised 
henceforward to avoid oversedation. Noncontrast head CT was 
negative for acute intracranial pathology while CTA chest was 
negative for pulmonary embolism or other thoracic pathology. 
There was low suspicion for acute coronary syndrome in the 
absence of acute ischemic EKG changes or troponinemia, and 
cardiac arrhythmia, particularly Torsades in the setting of 
multiple QTc prolonging agents, was felt to be unlikely, given 
nonprolonged QTc on admission and no further events on 
telemetry. In the setting of mild hyponatremia, EEG was negative 
for seizure activity. He was reportedly euglycemic when found 
unresponsive at his nursing, effectively precluding 
hypo/hyperglycemic episode. While he required intubation for 
airway protection in the ___ ED, he was extubated soon after 
arrival to the MICU and remained alert and oriented x3, calm, 
and appropriately interactive without recollection of his reason 
for admission throughout the remainder of admission.   

# Hyponatremia: Mild hyponatremia to 127 likely reflected 
hypovolemic hyponatremia, given improvement to 133 at discharge 
following gentle IV hydration.  

# Paranoid schizophrenia: As above, oversedation from multiple 
antipsychotic medications was felt to be most likely responsible 
for transient unresponsiveness. In discussion with the 
psychiatry service, IM risperidone monotherapy, with 
discontinuation of PO risperidone and PO clozapine, was advised 
henceforward to avoid oversedation. Following extubation, he 
remained alert and oriented x3, calm, and appropriately 
interactive without recollection of his reason for admission 
throughout the remainder of admission.   

Inactive Issues:
# Diabetes mellitus: Home oral regimen was held in favor of 
Humalog insulin sliding scale in house, with resumption of home 
glipizide and metformin at discharge.

# Hypertension: Home metoprolol and lisinopril were continued 
throughout admission.

# Hyperlipidemia: Home simvastatin was continued.

# GERD: Home omeprazole was continued.

Transitional Issues:
* Avoidance of PO clozapine and PO risperidone is advised by the 
psychiatry service to prevent oversedation.
* Thyroid ultrasound is advised for further evaluation of 
incidentally noted thyroid isthmus prominence on CTA head/neck.
* Hematuria on multiple urinalyses is presumed secondary to 
traumatic Foley insertion, but repeat urinalysis is advised in 
the outpatient setting to ensure resolution of hematuria.
* Pending studies: Blood cultures x2 (___).
* Code status: Full.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
2. Clozapine 150 mg PO QAM 
3. Clozapine 350 mg PO HS 
4. Fleet Enema ___AILY:PRN constipation 
5. FoLIC Acid 1 mg PO DAILY 
6. GlipiZIDE 10 mg PO BID 
7. Lactulose 15 mL PO Q8H:PRN constipation 
8. Lisinopril 2.5 mg PO DAILY 
9. Metoprolol Tartrate 25 mg PO BID 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. RISperidone Long Acting Injection 50 mg IM Q2W (MO) 
15. RISperidone 12 mg PO HS 
16. Acetaminophen 650 mg PO Q6H:PRN pain 
17. Simvastatin 40 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. FoLIC Acid 1 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. RISperidone Long Acting Injection 50 mg IM Q2W (MO) 
8. Simvastatin 40 mg PO DAILY 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Lisinopril 2.5 mg PO DAILY 
11. Lactulose 15 mL PO Q8H:PRN constipation 
12. GlipiZIDE 10 mg PO BID 
13. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
14. Fleet Enema ___AILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Loss of consciousness

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care during your admission 
to ___. As you know, you were 
admitted because you were found unresponsive and unconscious in 
your bed at your group home. You were intubated to make sure you 
could continue breathing safely, and then mechanically 
ventilated (a machine breathed for you for a few hours). You 
were transfered to the ICU, where you were extubated. The 
psychiatry team evaluated you and decided that the event was 
most likely due to too much antipsychotic medication, and they 
recommended that you take only Risperdal and not Clozaril. 

We wish you all the best in the future.

 

 
Followup Instructions:
___